* X:\Embedded\data\Draft1.asc
D1 N002 N001 RB068M-60
M1 N002 N003 0 0 IRLH5036
L1 N001 N002 80µ Rser=0.12
V2 N001 0 44.4 Rser=0.12
R3 N003 0 10k
R4 N003 N004 10
V3 N004 0 PULSE(0 12 0 0 0 0.004 0.008 500)
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 40m
.backanno
.end
